US07199135B2
N-[3-(1-{3-[(diphenylacetyl)amino]propyl}-4-piperidinyl)-2,4,6-trifluorophenyl]-2-methylpropan amide:
Example 171 was prepared from N-(3-bromopropyl)-2,2-diphenylacetamide and 2-methyl-N-[2,4,6-trifluoro-3-(4-piperidinyl)phenyl]propanamide according to the procedures described in Scheme 14; ESMS m/e: 552.3 (M+H)+.

reactant | N-(3-bromopropyl)-2,2-diphenylacetamide | BrCCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H18BrNO
reactant | 2-methyl-N-[2,4,6-trifluoro-3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=C(C(=C(C=C1F)F)C1CCNCC1)F)C | C15H19F3N2O
product | N-[3-(1-{3-[(diphenylacetyl)amino]propyl}-4-piperidinyl)-2,4,6-trifluorophenyl]-2-methylpropan amide | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C(=C(C(=CC1F)F)NC(C(C)C)=O)F)C1=CC=CC=C1 | C32H36F3N3O2
